US07008957B2
1c) (S)-2-Amino-2-benzylpent-4-enecarboxylic acid
A mixture of 2 g of allyl (2S,4S)-4-allyl-4-benzyl-2-tert-butyl-5-oxooxazolidine-3-carboxylate, 60 ml of tetrahydrofuran, 4.88 ml of morpholine and 300 mg of tetrakis-triphenylphosphinepalladium is stirred at room temperature for 20 minutes and then concentrated in vacuo. The residue is stirred in a mixture of 6 ml of glacial acetic acid and 20 ml of water for 30 minutes. After the volatile constituents have been stripped off in vacuo at 40° C., the product is purified by column chromatography (silica gel, mobile phase: methylene chloride:methanol=9:1).

reactant | allyl (2S,4S)-4-allyl-4-benzyl-2-tert-butyl-5-oxooxazolidine-3-carboxylate | 2 g | C(C=C)[C@]1(N([C@@H](OC1=O)C(C)(C)C)C(=O)OCC=C)CC1=CC=CC=C1 | C21H27NO4
reactant | morpholine | 4.88 ml | N1CCOCC1 | C4H9NO
reactant | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | (S)-2-Amino-2-benzylpent-4-enecarboxylic acid | N[C@@](CC(=O)O)(CC=C)CC1=CC=CC=C1 | C13H17NO2
